US08211927B2
B: Cis-4-Chloro-N-(4-hydroxycyclohexyl)-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide
To a stirred suspension of 4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylic acid (50 mg, 0.17 mmol) in acetonitrile (2 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (85 mg, 0.22 mmol), followed by cis-4-aminocyclohexanol hydrochloride (26 mg, 0.17 mmol). Triethylamine (52 mg, 0.51 mmol) was added before heating in the microwave at 150° C. for 10 minutes. After 10 minutes, the solvent was removed in vacuo, and the residue was partitioned between water and dichloromethane. The aqueous layer was separated and extracted with dichloromethane (3×10 mL), the combined organic extracts were dried with MgSO4, filtered and the solvent removed in vacuo. The residue was purified by preparative HPLC to afford the title compound: (26 mg, 0.067 mmol).

reactant | 4-chloro-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxylic acid | 0.17 mmol, 50 mg | ClC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C11H5ClF3NO3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.22 mmol, 85 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | cis-4-aminocyclohexanol hydrochloride | 0.17 mmol, 26 mg | Cl.N[C@H]1CC[C@H](CC1)O
reactant | Triethylamine | 0.51 mmol, 52 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | Cis-4-Chloro-N-(4-hydroxycyclohexyl)-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide | ClC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)N[C@@H]1CC[C@@H](CC1)O | C17H16ClF3N2O3
